Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:5]([C:4]([C:2]#[O+:3])([H:10])[H:11])=[C-:6][H:12])([H:7])([H:8])[H:9],83.9108191978442
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]([O:6][H:16])([H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:16])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],74.1776229000768
[C:1]([O:2][c:3]1[n:4][n:5]([H:11])[c:6]([H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:3]1([H:13])[N-:4][N:5]([H:11])[C:6]([H:12])=[C+:7]1)([H:8])([H:9])[H:10],86.68609075928009
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:4]([C:2]([O:3][H:11])([H:10])[H:16])([H:12])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15],103.025116535688
[O:1]([C@@:2]([C:3]([C:4]#[C:5][H:12])([H:10])[H:11])([C:6]#[C:7][H:13])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:6]([C:4]2=[C:5]([H:12])[C:3]2([H:10])[H:11])=[C:7]1[H:13])[H:8],83.7883853261689
[O:1]=[C:2]([c:3]1[n:4][c:5]([H:9])[n:6][o:7]1)[H:8]>>[O-:1][C:2](=[C:3]([N+:4]#[C-:5])[O+:7]=[N:6][H:9])[H:8],95.28190221381479
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:4](=[O:5])([H:10])[H:11].[C:6](=[N:7][H:13])([H:8])[H:12].[N:1](=[C:2]=[O:3])[H:9],88.665897573847
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1]([O:2][C:3]([C:4](=[C:5]([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][H:17],61.056065794937716
[O:1]([C:2]([N:7]=[C:6]=[C:3]([C:4]#[C:5][H:12])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8],36.8898787604663
[C:1]([C-:2]=[N+:7]=[C:5]([O+:4]=[C-:3][H:11])[O:6][H:12])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[o:4][c:5]([O:6][H:12])[n:7]1)([H:8])([H:9])[H:10],21.26549940698402
[C:1](/[N:2]=[C:3](/[O:4][C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:7][C:6]([C:5]([O:4]/[C:3](=[N:2]\[H:16])[H:11])([H:12])[H:13])([H:14])[H:15])([H:8])([H:9])[H:10],79.9121484471768
[N:1](=[C:2](/[C:6](=[O:7])[H:10])[H:9])\[H:8].[O:3]=[C:4]=[O:5]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],64.738998348698
[C-:2]1=[O+:4][C:3]1([H:11])[H:12].[C:1]([C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10],34.7321659881003
[C:1]([C@@:2]([N:3]([H:10])[H:11])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C-:2]([N+:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8],68.2969746065992
[C-:6]#[O+:7].[C:1]([C:2](=[O:3])[C:4]([O:5][H:12])([H:11])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],57.98899126566824
[C:3](=[C:4]([O:5][H:14])[H:13])([H:11])[H:12].[C:6](#[C:7][H:15])[H:8].[O:1]=[C:2]([H:9])[H:10]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],33.029860717854405
[N:1]#[C:2][O:5][C:4](=[C:3]=[N+:7]=[N-:6])[H:8]>>[N:1]#[C:2][C:3](=[C:4]([O-:5])[H:8])[N+:7]#[N:6],19.542108041043015
[H:9][H:10].[N:1](=[C:2]=[C:7]=[C:6]=[O:5])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4],65.63775824018629
[C:2](=[C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])[H:11])([H:9])[H:10].[O:1]([H:8])[H:12]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],39.37125890882511
[C:1]([O:2][C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([O:2][C@@:7]1([H:17])[C@:4]([C:3][H:11])([H:12])[C:5]([H:13])([H:14])[C:6]1([H:15])[H:16])([H:8])([H:9])[H:10],89.32487094504428
[C:1]([C@:2]([N:3]([C:4]([H:13])([H:14])[H:15])[H:12])([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10],94.395763885431
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:12])[O:4][H:13])([C:5]#[N:6])([H:8])[H:9].[H:7][H:11],110.710618544551
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:6]([O:7][H:15])([H:8])([H:13])[H:14].[N:1](=[C:2]=[O:3])[H:9].[N:4](=[C:5]([H:11])[H:12])[H:10],68.6816516032472
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:15])([H:16])[H:17])([O:6][H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:15])([H:16])([H:17])[H:18],76.0309430843685
[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7]>>[N:1](=[C:2]1\[O:3][C:4]1([H:8])[H:9])\[H:6].[O:5]([H:7])[H:10],51.107942550273286
